Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C-:6]#[O+:7].[N:1]([C:2](=[O:3])[C:4]([O:5][H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],36.082631045362994
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1](/[C:2]([O:3][H:11])=[C:4](\[O:5][C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10],40.42524764991621
[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7]>>[O:1](/[N:2]=[C:3](/[C:4]([H:8])([H:9])[H:10])[C:6]([N:5])([H:11])[H:12])[H:7],76.34738861597259
[N:1]1([H:8])[C:2](=[O:3])[C:6]([O+:5]=[C-:4][H:9])=[N:7]1>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],20.268484531770994
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[N:1](=[C:2]=[C:6]([C:4](=[O:3])[H:9])[N:7]=[O:5])[H:8],80.9590267599162
[C:1]([O:2][C:3](=[O:4])[H:8])([H:5])([H:6])[H:7]>>[C-:3]#[O+:4].[C:1](=[O:2])([H:6])[H:7].[H:5][H:8],63.447327174028
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:7]1)([H:8])([H:9])[H:10].[O:4]=[C:5]([C:6]([H:15])([H:16])[H:17])[H:14]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10],44.83272142598438
[C:1]([C+:2]([O:3][H:11])[C:4]([C-:5]=[C:6]([H:10])[H:14])([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],16.91476421503669
[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8]>>[C+:1]#[C:2][C:3](=[C:4]([C:5](=[C:6]([O-:7])[H:11])[H:10])[H:9])[H:8],90.59996627196121
[C:1](/[C:2](=[C:3](/[O:4][C:5](=[O:6])[N:7]([H:13])[H:14])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],46.90926562440169
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[O:1]([C@:2]1([H:7])[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]1=[C:6])[H:11],89.47835721776741
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7]>>[O:1]([O:6][C@@:5]1([H:12])[C:2]([H:8])([H:9])[C@:3]1([O:4][H:11])[H:10])[H:7],99.0025395389674
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([H:14])[H:15])([H:8])([H:9])[H:10].[O:5]=[C:6]=[N:7][H:16],41.825570323217796
[C:1]1([H:7])([H:8])[N:2]([H:9])[C@:3]1([C@@:4]1([H:11])[C:5]([H:12])([H:13])[N:6]1[H:14])[H:10]>>[C:1]1([H:7])([H:8])[N:2]([H:9])[C:3]1=[C:4]([H:10])[H:11].[C:5](=[N:6][H:14])([H:12])[H:13],79.71841623219379
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:4]([C:3]([H:9])([H:11])[H:12])([H:13])[H:14])[O:5][C:6](=[O:7])[H:15])([H:8])[H:10],65.5283666010173
[C:1]([C@@:2]([O:3][H:12])([O:7][C:6](=[O+:5][C-:4]([H:13])[H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],9.877759061003488
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C:6](=[O:7])[N:5]1[H:15])([H:8])([H:9])[H:10].[H:14][H:16],69.3293017298538
[N:1](=[C:2](/[O:3][H:8])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])\[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8],26.510963000427886
[C:1](/[C:2](=[C:3](\[C:4](=[C:5]=[C:6]([H:11])[H:14])[H:13])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9],97.85170327855201
[C:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:3]#[O+:4].[C:1]([C:2]([H:8])([H:10])[H:11])([C:5]([O:6][H:14])([H:12])[H:13])([H:7])[H:9],120.457291561346
[C-:4]#[O+:5].[C:1]([N:2]=[C:3]([H:12])[H:13])([H:8])([H:9])[H:10].[O:6]([C:7]([H:14])([H:15])[H:16])[H:11]>>[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],29.598728953378007
[C:5](#[N+:6][O-:7])[H:9].[O:1]=[C:2]([C:3]#[N:4])[H:8]>>[O:1]=[C:2]([c:3]1[n:4][c:5]([H:9])[n:6][o:7]1)[H:8],10.803489636353191
[C:1](=[C:2]([O:3][H:10])[H:9])([H:6])[H:8].[C:4](#[N:5])[H:7]>>[C:1]([C@@:2]([O:3][H:10])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],68.6086840601244
[C:1]([C:2]([C:3](=[O:4])[H:11])=[C:5]=[N:6][H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],56.91088431175206
[H:11][H:13].[O:1]([C:2]([C@:3]([O:4][H:14])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7],54.47181066408022
[C-:5]#[O+:6].[C:1]([O:2][C:3]([C:4]([H:9])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:14]>>[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],88.0313823595155
